US06716843B2
(S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-(cyclohexyl)-methanesulphonamide Hydrochloride
Starting from (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine, (cyclohexyl)-methanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 3.

reactant | (S)-N5-(benzyloxycarbonyl)-N2-(tert-butyloxycarbonyl)-ornithine | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | (cyclohexyl)-methanesulphonyl chloride | C1(CCCCC1)CS(=O)(=O)Cl | C7H13ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-N-[4-Amino-5-oxo-5-(1-pyrrolidinyl)-pentyl]-(cyclohexyl)-methanesulphonamide Hydrochloride | Cl.N[C@@H](CCCNS(=O)(=O)CC1CCCCC1)C(N1CCCC1)=O | InChI=1S/C16H31N3O3S.ClH/c17-15(16(20)19-11-4-5-12-19)9-6-10-18-23(21,22)13-14-7-2-1-3-8-14;/h14-15,18H,1-13,17H2;1H/t15-;/m0./s1
